US04755212
Preparation of 2-benzylthio-7-methyl-1,2,4-triazolo[1,5-a]pyrimidine
A solution of 50 g (0.24 mol) of 3-amino-5-benzylthio-1,2,4-triazole in 500 ml of glacial acetic acid was added dropwise over 3-4 hours to a solution of 34.0 g (0.25 mol) of acetylacetaldehyde dimethyl acetal in 500 ml of glacial acetic acid heated at 100° C. After the addition was complete the reaction mixture was heated at reflux overnight, cooled to room temperature and poured into an ice-water mixture. The solid which separated was collected by filtration and recrystallized from ethanol to yield 27 g (41%) of the desired product as a solid, m.p. 102°-104° C. IR and 1H NMR spectra were in agreement with the assigned structure.

reactant | 3-amino-5-benzylthio-1,2,4-triazole | 0.24 mol, 50 g | NC1=NNC(=N1)SCC1=CC=CC=C1 | C9H10N4S
reactant | acetylacetaldehyde dimethyl acetal | 0.25 mol, 34.0 g | COC(CC(C)=O)OC | C6H12O3
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | 2-benzylthio-7-methyl-1,2,4-triazolo[1,5-a]pyrimidine | 27 g, 41% | C(C1=CC=CC=C1)SC1=NN2C(N=CC=C2C)=N1 | C13H12N4S
